US08278337B2
To a solution of crude 2-(4-methanesulfonyl-phenyl)-2H-pyrazole-3-carbaldehyde from Part A in methanol (10 mL) was added sodium borohydride (0.15 g, 4 mmol) in one portion. After 30 min at room temperature, the reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The organic phase was dried (sodium sulfate) and concentrated affording [2-(4-methanesulfonyl-phenyl)-2H-pyrazol-3-yl]-methanol. The crude material was used without further purification.

reactant | 2-(4-methanesulfonyl-phenyl)-2H-pyrazole-3-carbaldehyde | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=C1C=O | C11H10N2O3S
reactant | sodium borohydride | 4 mmol, 0.15 g | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | [2-(4-methanesulfonyl-phenyl)-2H-pyrazol-3-yl]-methanol | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=C1CO | C11H12N2O3S
